US07119122B2
2-Fluoro-4-trifluoromethyl-benzonitrile (3.1 g, 20 mmol), 2-bromo-4-hydroxybenzaldehyde (4 g, 20 mmol) and potassium fluoride-(3.47 g, 60 mmol) were heated with stirring in dry DMF (20 mL) at 120° C. for 4 h, 80° C. for 16 h, 120° C. for 4 h, 130° C. for 1 h, and then at 140° C. for 16 h. The reaction mixture was cooled, poured onto 1N sodium hydroxide, extracted with ethyl acetate, and then dried over MgSO4. After filtration, the solvent was removed in vacuo to yield 2-(3-bromo-4-formyl-phenoxy)-4-trifluoromethyl-benzonitrile (6.38 g, 96%) as a brown oil.

reactant | 2-Fluoro-4-trifluoromethyl-benzonitrile | 20 mmol, 3.1 g | FC1=C(C#N)C=CC(=C1)C(F)(F)F | C8H3F4N
reactant | 2-bromo-4-hydroxybenzaldehyde | 20 mmol, 4 g | BrC1=C(C=O)C=CC(=C1)O | C7H5BrO2
reactant | potassium fluoride- | 60 mmol, 3.47 g | [F-].[K+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(3-bromo-4-formyl-phenoxy)-4-trifluoromethyl-benzonitrile | 6.38 g, 96% | BrC=1C=C(OC2=C(C#N)C=CC(=C2)C(F)(F)F)C=CC1C=O | C15H7BrF3NO2
